US08426420B2
iii) 4-[2-({5-[2-((2S,4R)-2-Cyclobutylcarbamoyl-4-hydroxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-acetyl]-piperazine-1-carboxylic acid butyl ester
To a solution of 700 mg 4-{2-[(5-Carboxymethoxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester in 10 ml DMF were added 317 mg pentafluorophenol and 330 mg EDC. The mixture was stirred under exclusion of moisture until LCMS indicated complete conversion to the corresponding pentafluorophenolester. (2S,4R)-4-Hydroxy-pyrrolidine-2-carboxylic acid cyclobutylamide hydrotrifluoroacetate (455 mg) was mixed with 0.55 ml N-ethylmorpholine and 5 ml DMF and this mixture added dropwise to the solution of the pentafluorophenolester. After 12 h the reaction mixture was diluted with DCM and washed with aqueous LiCl (4%), saturated aqueous NaHCO3 and brine. The crude product obtained after evaporation of the solvent was purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA). The fractions containing the product were immediately lyophilized to yield the pure product which was taken up in dichloromethane and washed once with aqueous NaHCO3. The residue obtained after evaporation of the solvent was lyophilized again to give the title compound. Yield: 454 mg MS (ES+): m/e=654.

reactant | 4-{2-[(5-Carboxymethoxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester | 700 mg | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NN(C(=C1)OCC(=O)O)C1=CC=CC=C1)=O | C23H29N5O7
reactant | pentafluorophenol | 317 mg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | (2S,4R)-4-Hydroxy-pyrrolidine-2-carboxylic acid cyclobutylamide | C1(CCC1)NC(=O)[C@H]1NC[C@@H](C1)O | C9H16N2O2
reactant | N-ethylmorpholine | 0.55 ml | C(C)N1CCOCC1 | C6H13NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EDC | 330 mg
product | 4-[2-({5-[2-((2S,4R)-2-Cyclobutylcarbamoyl-4-hydroxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-acetyl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](C[C@H](C1)O)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C32H43N7O8
